US05686481
1-(2-Carboxymethoxy-4-methoxybenzyl)-3-(3,4-methlenedioxyphenyl)-5-(prop-1-yloxy)indole-2-carboxylic acid
Ethyl 1-(2-Carboethoxymethoxy-4-methoxybenzyl)-3-(3,4-methlenedioxyphenyl)-5-(prop-1-yloxy)indole-2-carboxylate. To a solution of ethyl 1-(2-carboethoxymethoxy-4-methoxybenzyl)-5-hydroxy-3-(3,4-methylenedioxyphenyl)indole-2-carboxylate (175 mg, 0.30 mmol) in DMF stirred at ice bath temperature under an argon atmosphere was added a slurry of NaH (11 mg of 80% oil dispersion, 0.36 mmol, oil removed by pentane wash) in DMF (1 mL). After 15 min at ice bath temperature, 1-iodopropane (0.255 g, 1.5 mmol) was added and the ice bath was removed. The reaction mixture was stirred an additional 30 min at room temperature then partitioned between 3N HCl (25 mL) and EtOAc (75 mL). The organic extract was washed successively with H2O, aqueous NaHCO3, H2O and saturated aqueous NaCl and dried (Na2SO4). The solvent was removed in vacuo and the resulting solid crystallized from EtOH to afford the title compound (83 mg 47%); m.p. 89°-91° C.

reactant | Ethyl 1-(2-Carboethoxymethoxy-4-methoxybenzyl)-3-(3,4-methlenedioxyphenyl)-5-(prop-1-yloxy)indole-2-carboxylate | C(=O)(OCC)COC1=C(CN2C(=C(C3=CC(=CC=C23)OCCC)C2=CC3=C(C=C2)OCO3)C(=O)OCC)C=CC(=C1)OC | C33H35NO9
reactant | ethyl 1-(2-carboethoxymethoxy-4-methoxybenzyl)-5-hydroxy-3-(3,4-methylenedioxyphenyl)indole-2-carboxylate | 0.30 mmol, 175 mg | C(=O)(OCC)COC1=C(CN2C(=C(C3=CC(=CC=C23)O)C2=CC3=C(C=C2)OCO3)C(=O)OCC)C=CC(=C1)OC | C30H29NO9
reactant | NaH | 0.36 mmol, 11 mg | [H-].[Na+]
reactant | 1-iodopropane | 1.5 mmol, 0.255 g | ICCC | C3H7I
solvent | DMF | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 1-(2-Carboxymethoxy-4-methoxybenzyl)-3-(3,4-methlenedioxyphenyl)-5-(prop-1-yloxy)indole-2-carboxylic acid | 83 mg, 47% | C(=O)(O)COC1=C(CN2C(=C(C3=CC(=CC=C23)OCCC)C2=CC3=C(C=C2)OCO3)C(=O)O)C=CC(=C1)OC | C29H27NO9
